US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine
A solution of 4-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (98.0 mg, 0.188 mmol) in 4 M HCl in 1,4-dioxane (8 mL) was cooled to 0° C., then stirred at 50° C. for 2 h. The material was concentrated in vacuo and then extracted with DCM and sat. aq. NaHCO3. The organic layer was concentrated in vacuo to afford the title compound as a brown solid. 1H NMR (CDCl3, 400 MHz): δ=1.86 (d, J=6.8 Hz, 3H), 2.37-2.47 (m, 2H), 3.15 (t, J=5.8 Hz, 2H), 3.60 (d, J=2.8 Hz, 2H), 4.74 (s, 2H), 6.28 (br, s, 1H), 6.52 (q, J=6.7 Hz, 1H), 7.02-7.08 (m, 1H), 7.27-7.32 (m, 1H), 7.37 (s, 1H), 8.25 (s, 1H). MS (ES+): m/z 422.06 [MH+]. HPLC: tR=2.23 min (ZQ3, polar—5 min).

reactant | 4-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.188 mmol, 98.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C25H26Cl2FN3O4
solvent | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
